US08193378B2
To a solution of 7-(methoxymethoxy)-2H-chromene-3-carbaldehyde (5.00 g) and ethyl (3R)-piperidine-3-carboxylate (4.20 mL) in dichloroethane (150 mL) was added sodium triacetoxyborohydride (12.0 g), followed by stirring at 80° C. for 4 hours. The reaction liquid was cooled to room temperature and then saturated aqueous NaHCO3 was added thereto, followed by extraction with chloroform. The organic layer was washed with brine and dried over anhydrous sodium sulfate, and the vehicle was evaporated. The residue was purified by silica gel column chromatography (hexane:EtOAc=4:1) to obtain ethyl (3R)-1-{[7-(methoxymethoxy)-2H-chromen-3-yl]methyl}piperidine-3-carboxylate (7.30 g) as a yellow oily substance.

reactant | 7-(methoxymethoxy)-2H-chromene-3-carbaldehyde | 5.00 g | COCOC1=CC=C2C=C(COC2=C1)C=O | C12H12O4
reactant | ethyl (3R)-piperidine-3-carboxylate | 4.20 mL | N1C[C@@H](CCC1)C(=O)OCC | C8H15NO2
reactant | sodium triacetoxyborohydride | 12.0 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloroethane | 150 mL | ClC(C)Cl | C2H4Cl2
product | ethyl (3R)-1-{[7-(methoxymethoxy)-2H-chromen-3-yl]methyl}piperidine-3-carboxylate | 7.30 g | COCOC1=CC=C2C=C(COC2=C1)CN1C[C@@H](CCC1)C(=O)OCC | C20H27NO5
